US04788130
2.93 Grams of 2,3-dihydro-7-hydroxy-4-methyl-6-(1-phenyl-2-propenyl)-1H-inden-1-one oxime and 0.293 g of platinum oxide were suspended in 200 ml of acetic acid, then the suspension was reduced at room temperature under 3 atmospheric hydrogen pressure for 8 hours. After the completion of hydrogenation, the catalyst was removed by filtration, and the filtrate thus obtain was concentrated to dryness under a reduced pressure. The residue thus obtained was dissolved in 100 ml of ethanol and the pH of the solution was adjusted to about pH=1 by adding an ethanol solution saturated with hydrogen chloride gas, then this solution was again concentrated to dryness under a reduced pressure. The residue thus obtained was recrystallized from ethanoldiethyl ether to obtain 0.88 g of 1-amino-2,3-dihydro-7-hydroxy-4-methyl-6-(1-phenylpropyl)-1H-indene hydrochloride. Colorless powdery crystals. Melting point: 187.5°-189.5° C.

reactant | 2,3-dihydro-7-hydroxy-4-methyl-6-(1-phenyl-2-propenyl)-1H-inden-1-one oxime | OC=1C(=CC(=C2CCC(C12)=NO)C)C(C=C)C1=CC=CC=C1 | C19H19NO2
reactant | hydrogen | [H][H] | H2
reactant | hydrogen chloride | Cl | ClH
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | platinum oxide | 0.293 g | [Pt]=O
product | 1-amino-2,3-dihydro-7-hydroxy-4-methyl-6-(1-phenylpropyl)-1H-indene hydrochloride | 0.88 g | Cl.NC1CCC2=C(C=C(C(=C12)O)C(CC)C1=CC=CC=C1)C | InChI=1S/C19H23NO.ClH/c1-3-14(13-7-5-4-6-8-13)16-11-12(2)15-9-10-17(20)18(15)19(16)21;/h4-8,11,14,17,21H,3,9-10,20H2,1-2H3;1H
